US06121182
In a three-necked flask equipped with a mechanical stirrer were charged 44.5 g (345 mmol) of dimethyldichlorosilane, 300 ml of tetrahydrofuran and n-hexane, to which was added at -78° C. a 2-methylindenyllithium solution, followed by stirring at room temperature for 3 hours. After the solvent was distilled off under reduced pressure, 100 ml of hexane was added and insoluble matter was removed by centrifugation. After the solvent was distilled off under reduced pressure, distillation under reduced pressure (113° C./7mmHg) afforded 14.9 g (67 mmol, yield: 58%) of dimethyl(2-methylindenyl)silyl chloride as a pale yellow liquid.

reactant | dimethyldichlorosilane | 345 mmol, 44.5 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | 2-methylindenyllithium | CC=1C(C2=CC=CC=C2C1)[Li]
solvent | n-hexane | CCCCCC | C6H14
product | dimethyl(2-methylindenyl)silyl chloride | 67 mmol, 14.9 g, yield: 58% | C[Si](C1C(=CC2=CC=CC=C12)C)(C)Cl | C12H15ClSi
